US08058441B2
1-Acetyl-6-(2-acetamido-5-bromobenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
HATU condensation of 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (10 mg) with 2-acetamido-5-bromobenzoic acid (6.0 mg) and N,N-diisopropylethylamine (22 μl) in tetrahydrofuran (1 ml) was performed according to the method described in example 11.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 10 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N)(C)C1=CC=CC=C1)(C)C | C20H24N2O
reactant | 2-acetamido-5-bromobenzoic acid | 6.0 mg | C(C)(=O)NC1=C(C(=O)O)C=C(C=C1)Br | C9H8BrNO3
reactant | N,N-diisopropylethylamine | 22 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-Acetyl-6-(2-acetamido-5-bromobenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=C(C=CC(=C1)Br)NC(C)=O)=O)(C)C1=CC=CC=C1)(C)C | C29H30BrN3O3
